US07553964B2
3-(4-Bromo-phenyl)-cis-cyclobutanol
To a solution of 3-(4-bromo-phenyl)-cyclobutanone (3 g, 13.3 mmol) (J. Med. Chem., 43:721-735(2000)), in anhydrous ether (100 mL) cooled to −20° C. was dropwise added lithium aluminum hydride (1M in THF, 15 mL). The mixture was then allowed to warm to room temperature and stirred for 4 hours. The reaction was slowly quenched with NaOH (1M, 0.8 mL), H2O (0.8 mL) and NaOH (1M, 0.8 mL) sequentially. After stirring for about 30 minutes, the mixture was filtered through a layer of diatomaceous earth and washed with extra ether (100 mL). The filtrate was evaporated under reduced pressure to provide a colorless oil as the title compound (3.01 g, 100%). 1H NMR (300 MHz, CDCl3) δ 2.0 (m, 2 H), 2.76 (m, 2 H), 2.92 (m, 1 H), 4.28 (m, 1 H), 7.09 (d, J=9 Hz, 2 H), 7.41 (d, J=9 Hz, 2 H); (DCl/NH3) m/z 244(M+NH4)+.

reactant | 3-(4-bromo-phenyl)-cyclobutanone | 13.3 mmol, 3 g | BrC1=CC=C(C=C1)C1CC(C1)=O | C10H9BrO
reactant | lithium aluminum hydride | 1M, 15 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 100 mL | CCOCC | C4H10O
product | 3-(4-Bromo-phenyl)-cis-cyclobutanol | 3.01 g, 100% | BrC1=CC=C(C=C1)[C@H]1C[C@H](C1)O | C10H11BrO
